### ISSUE TITLE
inaccessible names affect `grind?`

### ISSUE THREAD

**Issue by chenson2018** [leanprover/lean4#13877]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Having inaccessible hypothesis can cause `grind?` to fail.

### Context

Reported [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/grind.3F.20failures/near/597675999)

### Steps to Reproduce

A minimization from CSLib:

```lean
namespace Relation

variable {r : α → α → Prop}

@[grind]
inductive ReflTransGen (r : α → α → Prop) (a : α) : α → Prop
  | refl : ReflTransGen r a a
  | tail {b c : α} : ReflTransGen r a b → r b c → ReflTransGen r a c

@[grind =]
theorem reflTransGen_iff_eq (h : ∀ b, ¬r a b) : ReflTransGen r a b ↔ b = a where
  -- (messy proof to avoid more Mathlib)
  mp h := by induction h with grind
  mpr := by grind

variable (r) in
inductive EqvGen : α → α → Prop
  | rel x y : r x y → EqvGen x y
  | refl x : EqvGen x x
  | symm x y : EqvGen x y → EqvGen y x
  | trans x y z : EqvGen x y → EqvGen y z → EqvGen x z

def Join (r : α → α → Prop) : α → α → Prop := fun a b ↦ ∃ c, r a c ∧ r b c

abbrev ChurchRosser (r : α → α → Prop) := ∀ {x y}, EqvGen r x y → Join (ReflTransGen r) x y

abbrev Reducible (r : α → α → Prop) (x : α) : Prop := ∃ y, r x y

abbrev Normal (r : α → α → Prop) (x : α) : Prop := ¬ Reducible r x

-- this fails: `grind?` gives an empty `grind only`
example (cr : ChurchRosser r) (nx : Normal r x) (ny : Normal r y) (xy : EqvGen r x y) : x = y := by
  have ⟨_, _, _⟩ := cr xy
  grind? [EqvGen]

-- but this works!
example (cr : ChurchRosser r) (nx : Normal r x) (ny : Normal r y) (xy : EqvGen r x y) : x = y := by
  have ⟨z, _, _⟩ := cr xy
  grind? [EqvGen]
```

**Expected behavior:**

Hypothesis names are irrelevant to `grind?`

**Actual behavior:**

Inaccessible names (seemingly of data?) can cause `grind?` to fail.

### Versions

Lean 4.31.0, commit c47a0c7cf035381a2bcdd4cdf2442782eb4a5214
Target: x86_64-unknown-linux-gnu

### Additional Information

N/A

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by peter941221** [comment]
Opened a Draft PR here:
https://github.com/leanprover/lean4/pull/13905

The fix keeps the existing syntax-driven `grind only` suggestions when they already replay on the original goal, and only falls back to theorem-backed recovery when the syntax-only candidates fail. That was enough to recover the missing theorem dependencies in the `instantiate approx` path behind this issue.

While broadening the regression slice, I also hit two suggestion-shape regressions in existing tests. I fixed those in the same patch so the reviewed version preserves the old snapshots when the syntax-only path is already sufficient.
